US07423158B2
Preparation of 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(3-methoxyprop-1-yn-1-yl)-phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
A solution of 2-amino-5-(3-bromophenyl)-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one (0.65 g, 1.6 mmol) in pyrrolidine was treated with 3-methoxy-propyne (0.27 mL, 3.2 mmol) followed by tetrakis(triphenylphosphine) palladium(0) (90 mg, 0.08 mmole), heated to 80° C. for 4 hrs, poured into water and extracted with ethyl acetate. The extracts were combined, washed sequentially with water and brine, dried over magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography on silica gel in ethyl acetate to give the title product as a brown wax, 0.4 g (63% yield), identified by NMR and mass spectral analyses.

reactant | 2-amino-5-(3-bromophenyl)-5-[4-(difluoromethoxy)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 1.6 mmol, 0.65 g | NC1=NC(C(N1C)=O)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)Br | C17H14BrF2N3O2
reactant | 3-methoxy-propyne | 3.2 mmol, 0.27 mL | COCC#C | C4H6O
reactant | water | O | H2O
solvent | pyrrolidine | N1CCCC1 | C4H9N
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.08 mmole, 90 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(3-methoxyprop-1-yn-1-yl)-phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 63% yield | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C#CCOC)C1=CC=C(C=C1)OC(F)F | C21H19F2N3O3
